US08207172B2
Preparation of 2-(6-{[4-(benzyloxy)-3-chlorophenyl]amino}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl)ethyl methanesulfonate
The title compound was prepared following the procedure described for example 57 method A, utilizing 2-(6-{[4-(benzyloxy)-3-chlorophenyl]amino}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl)ethanol (817 mg, 1.6 mmol), methanesulfonic anhydride (706 mg, 4.0 mmol), and pyridine (0.4 mL, 5.4 mmol). The desired product was collected as a light brown solid (920 g, 98%). 1H-NMR (DMSO-d6) δ 8.42 (s, 1H), 8.35 (s, 1H), 8.03 (s, 1H), 7.75 (d, 1H), 7.33-7.533 (m, 6H), 7.23 (d, 1H), 5.21 (s, 2H), 4.58 (t, 2H), 4.42 (t, 2H), 3.39 (t, 2H), 3.14 (s, 3H), 2.94 (t, 2H); LCMS RT=3.79 min; [M+H]+=582.1.

reactant | 2-(6-{[4-(benzyloxy)-3-chlorophenyl]amino}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl)ethanol | 1.6 mmol, 817 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC1=NC=NC2=C1C1=C(C3=CN(N=C3CC1)CCO)S2)Cl | C26H22ClN5O2S
reactant | methanesulfonic anhydride | 4.0 mmol, 706 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | pyridine | 5.4 mmol, 0.4 mL | N1=CC=CC=C1 | C5H5N
product | 2-(6-{[4-(benzyloxy)-3-chlorophenyl]amino}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl)ethyl methanesulfonate | CS(=O)(=O)OCCN1N=C2CCC3=C(C2=C1)SC1=C3C(=NC=N1)NC1=CC(=C(C=C1)OCC1=CC=CC=C1)Cl | C27H24ClN5O4S2
